US07528129B2
10c) methyl 2-acetylamino-3-(3-chloro-4-hydroxy-5-methyl-phenyl)-propionate
A mixture of 7.40 g (19.8 mmol) methyl 2-acetylamino-3-(4-benzyloxy-3-chloro-5-methyl-phenyl)-acrylate, 300 mL MeOH and 800 mg Raney nickel was shaken at RT and 3000 hPa hydrogen pressure for 7 h. After the reaction had ended the catalyst was filtered off and the remainder was evaporated down i.vac.

reactant | methyl 2-acetylamino-3-(4-benzyloxy-3-chloro-5-methyl-phenyl)-acrylate | 19.8 mmol, 7.40 g | C(C)(=O)NC(C(=O)OC)=CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)Cl | C20H20ClNO4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 800 mg | [Ni] | Ni
solvent | MeOH | 300 mL | CO | CH4O
product | methyl 2-acetylamino-3-(3-chloro-4-hydroxy-5-methyl-phenyl)-propionate | C(C)(=O)NC(C(=O)OC)CC1=CC(=C(C(=C1)C)O)Cl | C13H16ClNO4
